US07479558B2
4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(2,4-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one
A solution of 4-Chloro-2-methylsulfinyl-8-(2,4-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (0.24 g, 0.67 mmol) in dichloromethane (24 mL) was mixed with a solution of serinol (0.065 g, 0.71 mmol) in DMF (0.65 mL). The resultant mixture was stirred at room temperature for 1 hour before concentrated under vacuum. Flash chromatography (EtOAc/Hexane, 3:1) then provided the title compound (0.12 g, 46%): MS (ES) m/z 383 (M+H)+; 1H-NMR(CDCl3) δ 2.15 (s, br, 2H), 3.75 (m, br, 5H), 6.10 (m, br, 1H), 6.55 (m, 1H), 7.04 (m, 2H), 7.28 (m, 1H), 7.90 (m, 1H).

reactant | 4-Chloro-2-methylsulfinyl-8-(2,4-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.67 mmol, 0.24 g | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=C(C=C(C=C2)F)F | C14H8ClF2N3O2S
reactant | serinol | 0.71 mmol, 0.065 g | NC(CO)CO | C3H9NO2
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
solvent | DMF | 0.65 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(2,4-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.12 g, 46% | ClC=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=C(C=C(C=C2)F)F | C16H13ClF2N4O3
